US05338857
Added to 100 ml of chloroform were 10.0 g (74.1 mmol) of 4-methylbenzaldoxime, 9.9 g (74.4 mmol) of N-chlorosuccinimde and 0.4 ml of pyridine. After N-chlorosuccinimide was completely dissolved, the resulting solution was stirred for further 30 minutes. Under ice cooling, 9.3 g (110.7 mmol) of methyl propionate and 9.0 g (89.1 mmol) of triethylamine were added. The resulting mixture was stirred at room temperature for 12 hours. The reaction mixture was added with water and then extracted with chloroform. The extract was treated by a method known per se in the art. Subsequent purification on a silica gel column (eluent: chloroform) gave 3-(4-methylphenyl)-5-methoxycarbonylisoxazole as crystals. Analytical results of the crystals obtained: Yield: 8.0 g (49.8%). Melting point: 106°-108° C.

reactant | 4-methylbenzaldoxime | 74.1 mmol, 10.0 g | CC1=CC=C(C=NO)C=C1 | C8H9NO
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methyl propionate | 110.7 mmol, 9.3 g | C(CC)(=O)OC | C4H8O2
reactant | triethylamine | 89.1 mmol, 9.0 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-methylphenyl)-5-methoxycarbonylisoxazole | CC1=CC=C(C=C1)C1=NOC(=C1)C(=O)OC | C12H11NO3
